US06838463B2
To 2 ml of ethanol was suspended 0.3 g of 6-methylthio-4-benzoylpyrimidine, to which 0.07 g of sodium borohydride was added, followed by stirring at 0° C. for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was dried over anhydrous magnesium sulfate and then concentrated to give 6-methylthio-4-(α-hydroxybenzyl)pyrimidine.

reactant | 6-methylthio-4-benzoylpyrimidine | 0.3 g | CSC1=CC(=NC=N1)C(C1=CC=CC=C1)=O | C12H10N2OS
reactant | sodium borohydride | 0.07 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-methylthio-4-(α-hydroxybenzyl)pyrimidine | CSC1=CC(=NC=N1)C(C1=CC=CC=C1)O | C12H12N2OS
